US07569582B2
0.9 g of tert-butyl (2S,4R)-4-hydroxy-2-{[methoxy(methyl)amino]carbonyl}pyrrolidine-1-carboxylate is dissolved in 31 ml of diethyl ether under N2. The reaction medium is placed at 0° C. and 3.41 ml of 1N lithium aluminium hydride in tetrahydrofuran is carefully added. The mixture is stirred at 0° C. for 2 h. After hydrolysis with an aqueous potassium sulphate solution, extraction is carried out with diethyl ether until the aqueous phase is completely depleted. Drying over MgSO4 and concentration to dryness are carried out. The crude obtained is chromatographed on silica gel, elution being carried out with a 9/1 mixture of dichloromethane and methanol. 0.45 g of tert-butyl (2S,4R)-2-formyl-4-hydroxypyrrolidine-1-carboxylate is obtained.

reactant | tert-butyl (2S,4R)-4-hydroxy-2-{[methoxy(methyl)amino]carbonyl}pyrrolidine-1-carboxylate | 0.9 g | O[C@@H]1C[C@H](N(C1)C(=O)OC(C)(C)C)C(=O)N(C)OC | C12H22N2O5
reactant | lithium aluminium hydride | 1N, 3.41 ml | [H-].[Al+3].[Li+].[H-].[H-].[H-]
solvent | diethyl ether | 31 ml | C(C)OCC | C4H10O
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
product | tert-butyl (2S,4R)-2-formyl-4-hydroxypyrrolidine-1-carboxylate | 0.45 g | C(=O)[C@H]1N(C[C@@H](C1)O)C(=O)OC(C)(C)C | C10H17NO4
